US06884868B1
To a solution of 4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine-1-carboxylic acid tert-butyl ester (2.45 g) in 1,4-dioxane (62 ml) was added dropwise 4N-HCl/1,4-dioxane (58 ml) at ambient temperature. The reaction mixture was stirred for 110 minutes at ambient temperature, and stirred for 2 hours at 80° C. The precipitate was filtered and dried to give 1-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine trihydrochloride salt (2.07 g).

reactant | 4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine-1-carboxylic acid tert-butyl ester | 2.45 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C26H35N3O2
reactant | HCl 1,4-dioxane | 58 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 62 ml | O1CCOCC1 | C4H8O2
product | 1-[4-(4-phenylpiperidin-1-yl)phenyl]piperazine trihydrochloride salt | 2.07 g | Cl.Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C21H27N3.3ClH/c1-2-4-18(5-3-1)19-10-14-23(15-11-19)20-6-8-21(9-7-20)24-16-12-22-13-17-24;;;/h1-9,19,22H,10-17H2;3*1H
